US07547698B2
SYNTHESIS OF [4-(6-AMINOPYRIDAZIN-3-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE
The mixture of 3-amino-6-chloropyridazine (0.6487 g, 5 mmol) and piperazin-1-yl-(2-trifluoromethylphenyl)methanone (1.936 g, 7.5 mmol) in NMP (30 mL) was heated at 150° C. for 24 hours. To the reaction mixture was added 10 mL of 1 N NaOH and 100 mL of dichloromethane, and the aqueous layer was separated and extracted twice by 100 mL dichloromethane. The combined organic phase was dried over Na2SO4, evaporated to dryness. The crude compound was purified by flash chromatography to give yellow solid. Yield 52%, 1.37 g.

reactant | 3-amino-6-chloropyridazine | 5 mmol, 0.6487 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | 7.5 mmol, 1.936 g | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
product | [4-(6-AMINOPYRIDAZIN-3-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE | Yield 52% | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
